US05062884
2-Chloro-5-nitro-α-methylcinnamic acid (Y=CH3, Z=COOH)
371 g (2 moles) of 2-chloro-5-nitrobenzaldehyde were mixed with 192 g (2 moles) of sodium propionate and 780 g (6 moles) of propionic anhydride. The stirred mixture was then heated for 6 hours at 140°-160° C., solid material going into solution. The solution was then left to cool to 90° C., 200 ml of ice water were added and the precipitated solid was isolated by filtration under suction, washed with water and recrystallized from acetone to give 318 g (66% of theory) of product of melting point 228°-230° C.

reactant | 2-chloro-5-nitrobenzaldehyde | 2 moles, 371 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | sodium propionate | 2 moles, 192 g | C(CC)(=O)[O-].[Na+]
reactant | propionic anhydride | 6 moles, 780 g | C(CC)(=O)OC(CC)=O | C6H10O3
product | 2-Chloro-5-nitro-α-methylcinnamic acid | ClC1=C(C=C(C(=O)O)C)C=C(C=C1)[N+](=O)[O-] | C10H8ClNO4
